### PR TITLE
feat: Expand PBV examples to cover sign and zero extensions

### PR DESCRIPTION
**Pull request by luigirinaldi**
This PR introduces some more examples of the bounded parametric bitvector solving technique for the zero and sign extension cases.
- Theorems for translating about `Nat` width constraints into `BitVec` are added in `Mask.lean`
- `Push.lean` contains theorems regarding sign bits

### CODE REVIEW

**Comment by tobiasgrosser** [comment]
You probably want to rebase this branch on `main`?

File: Veir/Data/PBV/Mask.lean [hunk 1]
```diff
@@ -67,46 +71,58 @@ theorem setWidth_eq_and_maskOfWidth {o w : Nat} {a : BitVec w} {b : BitVec o}
...
     BitVec.toNat_ushiftRight,
     toNat_maskOfWidth h, Nat.shiftRight_eq_div_pow, Nat.pow_one]
   rcases Nat.eq_zero_or_pos w with rfl | hw
   · simp
-  · have h2 : 2 ^ w = 2 * 2 ^ (w - 1) := by
-      obtain ⟨w', rfl⟩ : ∃ w', w = w' + 1 := ⟨w - 1, by omega⟩
-      rw [Nat.pow_succ, Nat.add_sub_cancel]
-      omega
+  · have hpow : 2 ^ w = 2 * 2 ^ (w - 1) := by
+      obtain ⟨w', rfl⟩ : ∃ w', w = w' + 1 := ⟨w - 1, by grind⟩
```
Comment (luigirinaldi) [inline Veir/Data/PBV/Mask.lean]: by lia?

File: Veir/Data/PBV/Mask.lean [hunk 2]
```diff
@@ -67,46 +71,58 @@ theorem setWidth_eq_and_maskOfWidth {o w : Nat} {a : BitVec w} {b : BitVec o}
...
+/-- The sign bit of a mask of non-zero width `w` is the bitvector `2^(w - 1)`. -/
+@[simp] theorem signBitOfMask_maskOfWidth_eq_twoPow_of_pos {o w : Nat} (h : w ≤ o) (hw : 0 < w) :
     signBitOfMask (maskOfWidth o w) = BitVec.twoPow o (w - 1) := by
   apply BitVec.eq_of_toNat_eq
   rw [toNat_signBitOfMask_maskOfWidth h, BitVec.toNat_twoPow,
-    Nat.mod_eq_of_lt (Nat.pow_lt_pow_right (by omega) (by omega : w - 1 < o))]
-  have h2 : 2 ^ w = 2 * 2 ^ (w - 1) := by
+    Nat.mod_eq_of_lt (Nat.pow_lt_pow_right (by lia) (by lia : w - 1 < o))]
+  have hpow : 2 ^ w = 2 * 2 ^ (w - 1) := by
     obtain ⟨w', rfl⟩ : ∃ w', w = w' + 1 := ⟨w - 1, by omega⟩
```
Comment (luigirinaldi) [inline Veir/Data/PBV/Mask.lean]: also lia?

File: Veir/Data/PBV/Push.lean [hunk 3]
```diff
@@ -53,32 +53,33 @@ theorem setWidth_signExtend {t o : Nat} (_h : t ≤ o) :
...
-theorem msb_toMask {w o : Nat} (h : w ≤ o) :
+/-- `a.msb` can be implemented by masking the sign bit,
+which are definitions the bitblaster can see. -/
+theorem msb_eq_and_maskOfWidth_ne_zero {w o : Nat} (h : w ≤ o) :
     ∀ (a : BitVec w),
       a.msb = (((a.setWidth o) &&& signBitOfMask (maskOfWidth o w)) != 0#o) := by
   intro a
   rcases Nat.eq_zero_or_pos w with rfl | hw
   · -- `BitVec 0` has no bits, so both sides are `false`.
     rw [BitVec.msb_eq_getLsbD_last, BitVec.getLsbD_of_ge _ _ (by omega)]
```
Comment (luigirinaldi) [inline Veir/Data/PBV/Push.lean]: lia again?

**Review by luigirinaldi — COMMENTED** [review]
Looks good to me, there's a couple of `omega`s lying around, I understand we want to replace them all with `grind`/`lia` right?

File: Veir/Data/PBV/Mask.lean [hunk 4]
```diff
@@ -18,12 +18,16 @@ def maskOfWidth (o w : Nat) : BitVec o := BitVec.ofNat o (2 ^ w - 1)
 
 /-- `IsMask` encodes `m = 2^k - 1` for some `k : Nat` in terms of bitvector
 operations removing the dependency on `k` and allowing it to be bitblasted. -/
-def IsMask {o : Nat} (m : BitVec o) : Prop := m &&& (m + 1#o) = 0#o
+@[expose] def IsMask {o : Nat} (m : BitVec o) : Prop := m &&& (m + 1#o) = 0#o
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]: Why is this exposed. The PR should talk about this?

File: Veir/Data/PBV/Mask.lean [hunk 5]
```diff
@@ -18,12 +18,16 @@ def maskOfWidth (o w : Nat) : BitVec o := BitVec.ofNat o (2 ^ w - 1)
...
+
+/-- Unfold `IsMask` into the constraint handed to the bitblaster. -/
+theorem isMask_eq {o : Nat} (m : BitVec o) :
+    IsMask m = (m &&& (m + 1#o) = 0#o) := rfl
 
 theorem toNat_maskOfWidth {o w : Nat} (h : w ≤ o) :
     (maskOfWidth o w).toNat = 2 ^ w - 1 := by
   rw [maskOfWidth, BitVec.toNat_ofNat, Nat.mod_eq_of_lt]
-  have h1 : 2 ^ w ≤ 2 ^ o := Nat.pow_le_pow_right (by omega) h
+  have h1 : 2 ^ w ≤ 2 ^ o := Nat.pow_le_pow_right (by lia) h
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean:33]: Unrelated change?

File: Veir/Data/PBV/Mask.lean [hunk 6]
```diff
@@ -51,3 +70,59 @@ theorem setWidth_eq_and_maskOfWidth {o w : Nat} {a : BitVec w} {b : BitVec o}
...
+/-- `signBitOfMask m` keeps only the top bit of the mask `m`.
+This is used to extract the sign bit of a width `m` bitvector. -/
+@[expose] def signBitOfMask {o : Nat} (m : BitVec o) := m - (m >>> 1)
+
+/-- The zero bitvector, which is the mask of width `0`, has no sign bit. -/
+@[simp] theorem signBitOfMask_zero {o : Nat} : signBitOfMask (0#o) = 0#o := by
+  simp [signBitOfMask]
+
+/--
+The nat denotation of `signBitOfMask` of a mask of width `w`
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]: The `Nat` ...

**Review by tobiasgrosser — COMMENTED** [review]
Some first comments. More later.

File: Veir/Data/PBV/Mask.lean (hunk 5 above)
Comment (luigirinaldi) [reply Veir/Data/PBV/Mask.lean:33]: yes, used the opportunity to replace all omegas with lias

Comment (tobiasgrosser) [reply Veir/Data/PBV/Mask.lean:33]: This should not be part of a PR that is reviewed. If you want to clean up the code, make a separate PR "chore: replace `omega` with `lia`" and briefly describe in the PR body why this is a good change. Do not do side-quests in a PR that is being reviewed. The objective of a good PR is to keep it as small as possible, to faciliate reviews. Anything that you can pull out and get reviewed independently is a good thing.

**Comment by tobiasgrosser** [comment]
Can you rebase this on top of `main` after #1288 has been merged.

**Comment by luigirinaldi** [comment]
Rebased and ready to merge!

File: Veir/Data/PBV/Push.lean [hunk 7]
```diff
@@ -40,3 +40,46 @@ theorem setWidth_add {w o : Nat} (h : w ≤ o) :
...
+  · -- At or above the source width: `a` has no bit here, so the result is the sign bit.
+    rw [BitVec.getLsbD_of_ge a i (by lia)]
+    cases hmsb : a.msb <;>
+      simp [hiv, getLsbD_maskOfWidth, Bool.and_comm]
+
+/-! ### The sign bit: a test against the mask's top bit -/
+
+/-- `a.msb` can be implemented by masking the sign bit,
+which are definitions the bitblaster can see. -/
+theorem msb_eq_and_maskOfWidth_ne_zero {w o : Nat} (h : w ≤ o) :
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Push.lean]:
```suggestion
theorem msb_eq_and_signBitOfMask_maskOfWidth_ne_zero {w o : Nat} (h : w ≤ o) :
```

File: Veir/Data/PBV/Mask.lean [hunk 8]
```diff
@@ -51,3 +72,59 @@ theorem setWidth_eq_and_maskOfWidth {o w : Nat} {a : BitVec w} {b : BitVec o}
...
+  grind only
+
+/-- Mask of width 0 is the zero bitvector. -/
+@[simp] theorem maskOfWidth_zero (o : Nat) : maskOfWidth o 0 = 0#o := by
+  simp [maskOfWidth]
+
+/-! ## The sign bit helpers -/
+
+/-- `signBitOfMask m` keeps only the top bit of the mask `m`.
+This is used to extract the sign bit of a width `m` bitvector. -/
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]:
```suggestion
This is used to extract the sign bit of a width `o` bitvector. -/
```

File: Veir/Data/PBV/Mask.lean [hunk 9]
```diff
@@ -51,3 +72,59 @@ theorem setWidth_eq_and_maskOfWidth {o w : Nat} {a : BitVec w} {b : BitVec o}
...
+
+/-- The 'i'th bit of `maskOfWidth o w` is enabled iff
+the index 'i' is inbounds of `o` and `w`. -/
+@[simp] theorem getLsbD_maskOfWidth {o w : Nat} (i : Nat) :
+    (maskOfWidth o w).getLsbD i = (decide (i < w) && decide (i < o)) := by
+  rw [maskOfWidth, BitVec.getLsbD_ofNat, Nat.testBit_two_pow_sub_one]
+  grind only
+
+/-- The 'i'th bit of `maskOfWidth o w` is enabled iff
+the index 'i' is inbounds of `o` and `w`. -/
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Mask.lean]: This comment is a bit off, as `i < 0` is a hypothesis.

File: Veir/Data/PBV/Examples.lean [hunk 10]
```diff
@@ -46,3 +46,106 @@ theorem trace_add_comm_manual (w : Nat) (x y : BitVec w) (hw : w ≤ 4) :
...
+  (hr : r <= 8)
+  (hqr : q < r)
+  (hpq : p < q) :
+  (x.zeroExtend q).zeroExtend r = x.zeroExtend r
+  := by
+-- Step 1: Bound widths to the provided blast width
+  have r_le_bw : r <= 8 := by grind
+  have q_le_bw : q <= 8 := by grind
+  have p_le_bw : p <= 8 := by grind
+-- Step 2-3: Introduce mask to replace `w` Nat var
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Examples.lean]:
```suggestion
  (hr : r ≤ 8)
  (hqr : q < r)
  (hpq : p < q) :
  (x.zeroExtend q).zeroExtend r = x.zeroExtend r
  := by
-- Step 1: Bound widths to the provided blast width
  have r_le_bw : r ≤ 8 := by grind
  have q_le_bw : q ≤ 8 := by grind
  have p_le_bw : p ≤ 8 := by grind
-- Step 2-3: Introduce mask to replace `w` Nat var
```

File: Veir/Data/PBV/Examples.lean [hunk 11]
```diff
@@ -46,3 +46,106 @@ theorem trace_add_comm_manual (w : Nat) (x y : BitVec w) (hw : w ≤ 4) :
...
+theorem trace_zero_sign_extend (p q r : Nat) (x : BitVec p)
+  (hr : r <= 8)
+  (hqr : q < r)
+  (hpq : p < q) :
+  (x.zeroExtend q).signExtend r = x.zeroExtend r
+  := by
+-- Step 1: Bound widths to the provided blast width
+  have r_le_bw : r <= 8 := by grind
+  have q_le_bw : q <= 8 := by grind
+  have p_le_bw : p <= 8 := by grind
```
Comment (tobiasgrosser) [inline Veir/Data/PBV/Examples.lean]:
```suggestion
  (hr : r ≤ 8)
  (hqr : q < r)
  (hpq : p < q) :
  (x.zeroExtend q).signExtend r = x.zeroExtend r
  := by
-- Step 1: Bound widths to the provided blast width
  have r_le_bw : r ≤ 8 := by grind
  have q_le_bw : q ≤ 8 := by grind
  have p_le_bw : p ≤ 8 := by grind
```

**Review by tobiasgrosser — APPROVED** [review]
LGTM. Thank you! 🙏
